US09084794B2
b) (+)-2-(4-(3-chloroquinolin-7-yl)-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide
To a solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (137 mg, 0.31 mmol), crude 3-chloro-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline/boronic acid mixture (45.0 mg), and 2M aq potassium carbonate (0.17 mL, 0.342 mmol) in 1,4-dioxane (0.5 mL) was added PdCl2(dppf)-CH2Cl2 adduct (10.2 mg, 0.012 mmol). The reaction mixture was purged with nitrogen, sealed, and irradiated in the microwave at 110° C. for 25 min, at which point the reaction had proceeded to completion. The reaction mixture was diluted with ethyl acetate (25 mL) and washed with 5 mL of 1M aq HCl. The organic phase was washed with brine (5 mL), dried over anhydrous sodium sulfate, filtered through a pad of celite, and concentrated to dryness. Purification of the residue by reverse phase HPLC (5-45% acetonitrile+0.1% TFA:water+0.1% TFA) followed by resolution of the racemate by chiral HPLC (Chromegachiral CC4, methanol) afforded the title product in >98% ee (9 mg, 4% yield over the two steps). αD=+41 deg (c=0.02, methanol); MS(ES)+ m/e 523.5 [M+H]+; 1H NMR (400 MHz, CD2Cl2) δ ppm 0.65 (br. s., 2 H) 0.82 (d, J=5.81 Hz, 2 H) 1.59 (br. s., 4 H) 1.92 (br. s., 1 H) 2.72 (br. s., 3 H) 3.16 (br. s., 3 H) 4.01 (br. s., 2 H) 4.53 (br. s., 1 H) 5.58 (s, 1 H) 7.27 (br. s., 1 H) 7.63 (br. s., 1 H) 7.92 (d, J=7.07 Hz, 2 H) 8.25 (d, J=2.02 Hz, 1 H) 8.35 (s, 1 H) 8.89 (d, J=2.27 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.31 mmol, 137 mg | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H23BrFN3O3
reactant | 3-chloro-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline boronic acid | 45.0 mg | ClC=1C=NC2=CC(=CC=C2C1)B1OC(C(O1)(C)C)(C)C.B(O)O
reactant | potassium carbonate | 0.342 mmol, 2M, 0.17 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.012 mmol, 10.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-(3-chloroquinolin-7-yl)-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 4% yield | ClC=1C=NC2=CC(=CC=C2C1)C1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C28H28ClFN4O3
